### ISSUE TITLE
internal error: introducing rapps not found for these mvars: [unknown goal]

### ISSUE THREAD

**Issue by astahfrom** [JLimperg/aesop#13]
Commit 3d7ae7fa4a1ddb3ae0448d82d65c0acf2e031351

I have encountered a curious internal error that only occurs under very specific circumstances.
Apologies for the long example but I could not contain it further without stubbing out definitions.
The `aesop` call in the theorem `error` below produces an internal error.

```lean
import Aesop

inductive Any (P : α → Prop) : List α → Prop where
  | here (x xs) : P x → Any P (x :: xs)
  | there (x xs) : Any P xs → Any P (x :: xs)

theorem Any.cons (P : α → Prop) (x : α) (xs : List α)
  : Any P (x :: xs) ↔ (P x ∨ Any P xs) := by
  aesop (add unsafe [50% constructors Any, 50% (cases (patterns := [Any _ (_ :: _ )])) Any])

inductive Perm : (xs ys : List α) → Type where
  | refl xs : Perm xs xs
  | prep (x xs ys) : Perm xs ys → Perm (x :: xs) (x :: ys)
  | swap (x y xs ys) : Perm xs ys → Perm (x :: y :: xs) (y :: x :: ys)
  | tran (xs ys zs) : Perm xs ys → Perm ys zs → Perm xs zs

infix:45 " ↭ " => Perm

theorem Perm.any {xs ys : List α} (perm : xs ↭ ys) (P : α → Prop)
  : Any P xs → Any P ys := by
  induction perm <;> aesop (add norm simp Any.cons)

--- Examples

theorem error (P : Nat → Prop) (Δ : List Nat)
  : Any i Δ := by
  -- internal error: introducing rapps not found for these mvars: [unknown goal]
  aesop (add unsafe 50% constructors Perm, unsafe 50% constructors Any,
    unsafe apply 50% Perm.any)

-- α instead of Nat
theorem fine (P : α → Prop) (Δ : List α)
  : Any i Δ := by
  -- failed to prove the goal after exhaustive search
  aesop (add unsafe 50% constructors Perm, unsafe 50% constructors Any,
    unsafe apply 50% Perm.any)
```

Removing any of the added options to the `aesop` call makes the internal error go away.
It also goes away if I replace `α` with `Nat` as evidenced by the theorem `fine`.

**Comment by JLimperg** [comment]
More thanks! This one looks like a nasty invariant violation.

Jun 2, 2022 12:11:04 Asta H. From ***@***.***>:

**Comment by JLimperg** [comment]
This turns out to be a very interesting (read: highly annoying) bug. What happens is basically:

- We start with two sibling goals **1**: `Any i ?xs` and *2*: `Perm ?xs ?zs`.
- Expanding goal **1**, we apply `Any.here`. This introduces metavariables `?y` and `?ys` and a goal **3:** `i ?y`. It assigns `?xs := ?y :: ?ys`. Since `?ys` does not appear in any goal, it is classified as a goal of its own.
- Due to the assignment, the meta-related goal **1** is copied and becomes an additional subgoal of the rapp. Due to the assignment of `?xs`, its type is now `Perm (?y :: ?ys) ?zs`. So when taking this copied goal into account, `?ys` should be classified as a metavariable.

It seems like we should defer the choice between treating an introduced mvar as a goal or as a metavariable until we know the copied goals. I have a patch to that effect, but it seems to break in different ways. I'll have to think more about this and we'll have to look at whether this issue also shows up in the theory.

**Comment by astahfrom** [comment]
Interesting indeed! I have encountered this an annoying number of times by now, so it seems important that we come up with a fix.

**Comment by astahfrom** [comment]
Here's a different, slightly shorter example exhibiting the same issue.

```lean
import Aesop

inductive Perm : (xs ys : List α) → Type where
  | prep {xs} x : Perm (x :: xs) (x :: xs)

inductive Proof : (Γ Δ : List Φ) → Prop where
  | basic (Γ Δ n) : Proof (n :: Γ) (n :: Δ)
  | per_l (Γ Γ' Δ) : Proof Γ Δ → Perm Γ' Γ → Proof Γ' Δ

theorem weaken (Γ Δ : List Φ) (prf : Proof Γ Δ) (δ : Φ) : Proof Γ (δ :: Δ) := by
  induction prf
  case basic Γ Δ n =>
     -- aesop: internal error: introducing rapps not found for these mvars: [unknown goal]
    aesop (add unsafe [constructors Proof, constructors Perm])
  case per_l Γ Γ' Δ _ perm ih =>
    apply Proof.per_l Γ Γ' (δ :: Δ) ih perm
```

**Comment by JLimperg** [comment]
I've now implemented the fix from my previous comment. Basically, when a rapp adds goals `g1, ..., gn` and we additionally copy goals `c1, ..., cm`, we check for each `gi` whether it occurs in any of the `cj`. If so, the goal `gi` is treated as a metavariable instead. I'm moderately confident that this is correct and doesn't affect the theory.

The examples from this issue also triggered another bug related to dropped metavariables. In the theory, rules are not allowed to drop metavariables, meaning a goal which appears in the parent goal of a rapp must also appear in at least one of the subgoals. In practice, I had a system where if an mvar was dropped, it would be added as a separate subgoal. However, such an mvar can sometimes be solved later due to copying, in which case we have a problem. So for now, I've changed the implementation to match the theory and forbid dropped mvars. I'll revisit this at some point and try to get them to work again. (Current idea: postpone the adding of dropped mvar goals until there are no mvars in the goal any more. At that point we can be sure that there's no more copying.)
